US07119209B2
4-(1H-imidazol-1-ylcarbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (5.0 g, 23.0 mmol), 4-(2-aminoethyl)morpholine (4.5 g, 34.6 mmol), 5-fluorooxindole (3.47 g, 23.0 mmol), and THF (80 ml) were mixed and heated to 65° C. After stirring for 24 h at 65° C., the mixture was cooled to room temperature and filtered. The cake was washed with 40 ml THF and dried overnight at 50° C. under house vacuum. 5-[(Z)-(5-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]-2,4-dimethyl-N-(2-morpholin-4-ylethyl)-1H-pyrrole-3-carboxamide (8.28 g) was obtained in 87% yield.

reactant | 4-(1H-imidazol-1-ylcarbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 23.0 mmol, 5.0 g | N1(C=NC=C1)C(=O)C=1C(=C(NC1C)C=O)C | C11H11N3O2
reactant | 4-(2-aminoethyl)morpholine | 34.6 mmol, 4.5 g | NCCN1CCOCC1 | C6H14N2O
reactant | 5-fluorooxindole | 23.0 mmol, 3.47 g | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 5-[(Z)-(5-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)methyl]-2,4-dimethyl-N-(2-morpholin-4-ylethyl)-1H-pyrrole-3-carboxamide | 8.28 g, 87% yield | FC=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)NCCN1CCOCC1)C | C22H25FN4O3
